US07358248B2
Methanesulfonic acid 4-(4,6-diphenylpyrimidin-2-yl)-benzyl ester
A solution of [4-(4,6-diphenylpyrimidin-2-yl)-phenyl]methanol, 0.38 g (1.11 mmol), triethylamine, 0.34 mL (2.45 mmol), and 6 mL of methylene chloride was cooled to 0° C. via ice-water bath. Methanesulfonyl chloride, 0.10 mL (1.23 mmol) was added dropwise over 5 minutes. The solution stirred for 2 h at 0° C. The solution was quenched with 20 mL of water and diluted with 20 mL of ethyl acetate. The organic layer was washed with water, sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was recrystallized with EtOAc-Heptane (1:2) to afford the desired product in 0.44 g (95%) as a yellow solid. 1H NMR (DMSO-d6) 8.77 (d, 2H, J=9.0), 8.44-8.41 (m, 4H), 8.30 (s, 1H), 7.68-7.61 (m, 8H), 5.37 (s, 2H), 3.11 (s, 3H).

reactant | [4-(4,6-diphenylpyrimidin-2-yl)-phenyl]methanol | C1(=CC=CC=C1)C1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)CO | C23H18N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 4-(4,6-diphenylpyrimidin-2-yl)-benzyl ester | C1(=CC=CC=C1)C1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(COS(=O)(=O)C)C=C1 | C24H20N2O3S
